US09216978B2
Methyl 3-bromotetrahydrofuran-3-carboxylate
5.0 g (38.419 mmol) of methyl tetrahydrofuran-3-carboxylate (Journal of Organic Chemistry; 1996; 2690) were dissolved in 200 ml of THF and cooled to −78° C., and 76.83 ml (76.83 mmol) of bis(trimethylsilyl)lithium amide (1 M in THF) were then added. After 30 min at −78° C., 10.26 g (57.63 mmol) of N-bromosuccinimide, suspended in 50 ml of THF, were added slowly. The mixture was then allowed to warm to RT overnight. Water was added, and the mixture was extracted with ethyl acetate. The phases were separated and the aqueous phase was extracted two more times with ethyl acetate. The combined organic phases were washed with saturated aqueous sodium chloride solution and then dried with sodium sulphate, filtered and concentrated. The crude product was purified by chromatography on silica gel (mobile phase:dichloromethane). This gave 491 mg (6% of theory) of the title compound.

reactant | methyl tetrahydrofuran-3-carboxylate | 38.419 mmol, 5.0 g | O1CC(CC1)C(=O)OC | C6H10O3
reactant | N-bromosuccinimide | 57.63 mmol, 10.26 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Methyl 3-bromotetrahydrofuran-3-carboxylate | BrC1(COCC1)C(=O)OC | C6H9BrO3
